US04337341
A solution of 21 g. of 4a-phenyl-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine in 172 ml. of ethanol was stirred while 7 g. of 5 percent palladium suspended on carbon was added in one portion. The reaction mixture was stirred under a hydrogen gas atmosphere at 60 psi and heated at 60° C. for three hours. The reaction mixture was cooled to room temperature, filtered, and the solvent was removed by evaporation under reduced pressure to provide 13.3 g. of the product as an oil. The oil was distilled to afford 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine.

reactant | 4a-phenyl-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCN(CC2CCC1)CC1=CC=CC=C1 | C21H25N
catalyst | palladium | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4a-phenyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | C1(=CC=CC=C1)C12CCNCC2CCC1 | C14H19N
